US04487778
Reaction of alpha-butyrolactone with chlorobenzene in the presence of aluminum chloride, as described in U.S. Pat. No. 3,657,400, produced 5-chloro-3,4-dihydro-1(2H)-naphthalenone. The latter was formylated with a combination of phosphorous oxychloride and dimethylformamide, yielding 1,5-dichloro-3,4-dihydronaphthalen-2-carboxaldehyde; mp 83.5°-84°, which was then reacted with ethyl thioglycolate and triethylamine in pyridine, as described in J.C.S. Perkin I, 2956 (1973), to produce ethyl 6-chloro-4,5-dihydronaphtho[1,2-b]thiophen-1-carboxylate; mp 81°-82°.

reactant | alpha-butyrolactone | C1(C(CC)O1)=O | C4H6O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 5-chloro-3,4-dihydro-1(2H)-naphthalenone | ClC1=C2CCCC(C2=CC=C1)=O | C10H9ClO
